US06432993B1
In a similar manner to that described in Reference Example 6 a reaction was carried out using t-butylhydroquinone (1.66 g), t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate (2.87 g), sodium hydride (55 wt. %, 0.87 g) and anhydrous N,N-dimethylformamide (20 ml) and the reaction mixture was purified by chromatography on a silica gel column using n-hexane/ethyl acetate=4/1 to give t-butyl N-[5-(3-t-butyl-4-hydroxyphenoxy)-2-nitrophenyl]-N-methylcarbamate (1.35 g), of which Rf value was 0.45 in thin layer chromatography on a silica gel plate using n-hexane/ethyl acetate=3/1 and t-butyl N-[5-(2-t-butyl-4-hydroxyphenoxy)-2-nitrophenyl]-N-methylcarbamate (1.11 g), of which Rf value was 0.35 in thin layer chromatography on a silica gel plate using n-hexane/ethyl acetate=3/1.

reactant | t-butylhydroquinone | 1.66 g | C(C)(C)(C)C1=C(O)C=CC(=C1)O | C10H14O2
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 2.87 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
reactant | sodium hydride | 0.87 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | t-butyl N-[5-(3-t-butyl-4-hydroxyphenoxy)-2-nitrophenyl]-N-methylcarbamate | 1.35 g | C(C)(C)(C)C=1C=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=CC1O | C22H28N2O6
